Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___ y/o G6P0050 @ 32 ___ didi twins with PTC/abdominal 
pain/occasional deep variables (50s).

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HPI: ___ G6P0 at ___ with di-di twins presenting with acute
onset of right lower quadrant abdominal pain beginning 3 hours
prior to presentation. She has been experiencing occasional
contractions over the past few days but this pain started 
acutely
tonight. She denies VB. She denies LOF, but does note increase 
in
vaginal discharge. +FM x 2.

ROS: Denies fever, chills, other abdominal pain, abdominal
trauma, dysuria.

 
Past Medical History:
PObHx: G6P0050, TAB x 4, SAB x 1
PGynHx: No history of LEEP or other cervical procedure
PMHx: anxiety, depression, ADHD, PTSD, polysubstance abuse
PSHx: Denies

 
Social History:
Social History: h/o cocaine and EtOH abuse (last use ___,
former smoker, presents with husband.

 
Physical Exam:
 Vital signs Afebrile HR 79, BP 116/58, 99% RA
General: Writhing on stretcher in pain.
Abdomen: soft, gravid, exquisitely tender to palpation in right
lower quadrant
Ext: no edema, no tenderness
SSE: Normal external anatomy, no blood in vaginal vault,
+pooling, neg nitrazine, neg ferns
SVE: FT/50/high at 0200, on reeval at 0300 no change

 
Pertinent Results:
NST: A baseline 140, mod variability, +accels, sporadic deep
variable decels
B baseline 140, mod variability, +accels, sporadic deep variable
decels
TOCO: ___ m on arrival
BPP: A VTX, ___, MVP 5.9
B complete breech, ___ MVP ___

Labs: 
CBC 7.9>9.2/26.6<167
N: 84%, no bands
___ 10.2 PTT 27.6 INR ___ Fibrinogen ___DMITTED FOR OBSERVATION
stable wo further pain nor PTL
received ferric gluconate 125ml IV
PO Cyanocobalmin

Betamethasone complete
 
Medications on Admission:
Prenatal vitamins
Aripiprazole 5 mg PO DAILY 
Lithium Carbonate CR (Eskalith) 900 mg PO DAILY 

 
Discharge Medications:
1. Aripiprazole 5 mg PO DAILY 
2. Cyanocobalamin 500 mcg PO DAILY 
3. Lithium Carbonate CR (Eskalith) 900 mg PO DAILY 
4. Prenatal Vitamins 1 TAB PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
DiDi twins at 32weeks
undelivered
abdominal pain wo etiology
 
Discharge Condition:
stable

 
Discharge Instructions:
You were admitted to the hospital due to painful preterm 
contractions. Your cervix was a fingertip dilated, then remained 
stable without further change. Your contractions improved 
significantly. Fetal testing was reassuring throughout your 
admission. You received a course of betamethasone for fetal lung 
maturity. It is important for you to continue pelvic rest and 
modified bedrest at home. Stay well hydrated.

You received a dose of IV iron while you were here due to your 
anemial. Your blood counts were stable.
 
Followup Instructions:
___